US06407235B1
To a solution of 500 mg (133 mmol) (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenol in 20 ml acetonitrile were added 0.64 ml (6.7 mmol) CCl4, 16.3 mg (0.13 mmol) DMAP and 0.48 ml (2.9 mmol) N,N-diisopropylethylamine. The reaction mixture was stirred for 15 min at room temperature and 0.43 ml (1.9 mnmol) dibenzylphosphite were added dropwise. After 20 min. 20 ml sat. NaHCO3 solution was added and the aqueous phase was extracted with ethylacetate (3×30 ml) and the combined organic layers were washed with water, dried over MgSO4, filtrated and the solvent was removed under reduced pressure. Purification of the crude product by chromatography over silica gel (ethylacetate/hexane 2/1) yielded 700 mg (11 mmol, 83%) phosphoric acid dibenzyl ester (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester as a colorless solid.

reactant | (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenol | 133 mmol, 500 mg | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)O)O | C20H25NO4S
reactant | CCl4 | 6.7 mmol, 0.64 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | N,N-diisopropylethylamine | 2.9 mmol, 0.48 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dibenzylphosphite | 0.43 ml | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)[O-]
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | DMAP | 0.13 mmol, 16.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | phosphoric acid dibenzyl ester (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl ester | 11 mmol, 700 mg, 83% | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)OP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O)O | C34H38NO7PS
